US05734051
1,3-Di-n-butyl-8-pyrrolidinyl Xanthine
The title compound was prepared from 1,3-di-n-butyl-8-bromo xanthine (1 g, 0.0029 ml) and pyrrolidine (0.041 g, 0.0057 mol) using an analogous procedure to that described in Example 19. The title product was obtained as a crystalline solid, m.pt. >250° C.

reactant | 1,3-di-n-butyl-8-bromo xanthine | 0.0029 ml, 1 g | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)Br)CCCC | C13H19BrN4O2
reactant | pyrrolidine | 0.0057 mol, 0.041 g | N1CCCC1 | C4H9N
product | 1,3-Di-n-butyl-8-pyrrolidinyl Xanthine | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)N1CCCC1)CCCC | C17H27N5O2
